US06414148B1
1,2-Dibromoethane (5.4 ml, 62 mmol) was added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (5 g, 15.6 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (8.6 g, 62 mmol) in DMF (50 ml) and the mixture stirred for 18 hours at ambient temperature. Water was added and the resulting precipitate was collected by filtration. The solid was purified by chromatography on neutral alumina eluting with methylene chloride/methanol (95/5). The semi-purified product was repurified by chromatography on silica eluting with methylene chloride/methanol (97/3). The purified product was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (3.58 g, 54%).

reactant | 1,2-Dibromoethane | 62 mmol, 5.4 ml | BrCCBr | C2H4Br2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 15.6 mmol, 5 g | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 62 mmol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-(2-bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 3.58 g, 54% | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C17H14BrClFN3O2
